US07361763B2
To a suspension of AlCl3 (338 mg, 2.54 mmol) in dichloromethane (10 mL) was added 5-bromo-1H-pyrrolo[2,3-b]pyridine (100 mg, 0.507 mmol). After stirring for 45 min, benzoyl chloride (0.3 mL, 2.54 mmol) was added and the reaction mixture was stirred for 3 h, before quenching with MeOH at 0° C. The mixture was concentrated in vacuum, the pH was changed to 4 by addition of 1N aqueous NaOH, and the aqueous layer was extracted twice with EtOAc. The organic layer was dried over MgSO4, filtered and adsorbed on silica gel. Purification on silica gel with a gradient of EtOAc/hexanes afforded (5-bromo-1H-pyrrolo[2,3-b]pyridine-3-yl)-phenyl-methanone as a white solid (61 mg, 40% yield).

reactant | AlCl3 | 2.54 mmol, 338 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 0.507 mmol, 100 mg | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | benzoyl chloride | 2.54 mmol, 0.3 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (5-bromo-1H-pyrrolo[2,3-b]pyridine-3-yl)-phenyl-methanone | 61 mg, 40% yield | BrC=1C=C2C(=NC1)NC=C2C(=O)C2=CC=CC=C2 | C14H9BrN2O
